US04217453
A solution of benzyl 6-azido-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (0.1 mmol) in anhydrous dimethylformamide (1 ml) is cooled in an ice-bath and stirred while triethylamine (0.2 mmol) and dipropylamine (0.12 mmol) are added. The resulting solution is allowed to warm to room temperature and kept there overnight. The solution is diluted with ethylacetate, washed with water, pH 3 phosphate buffer, 5% sodium bicarbonate solution, and brine, dried with magnesium sulfate, filtered, and evaporated under vacuum to afford benzyl 6-azido-3-dipropylamino-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 6-azido-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 0.1 mmol | N(=[N+]=[N-])C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)OS(=O)(=O)C=1C(=CC=CC1)C | C21H18N4O6S
reactant | triethylamine | 0.2 mmol | C(C)N(CC)CC | C6H15N
reactant | dipropylamine | 0.12 mmol | C(CC)NCCC | C6H15N
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | benzyl 6-azido-3-dipropylamino-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | N(=[N+]=[N-])C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)N(CCC)CCC | C20H25N5O3
